US07902394B2
Ethyl iso-butyrate (35.0 g, 0.30 mol) was added to a solution of lithium N,N-diisopropyl amide (prepared from N,N-diisopropylamine (38.1 g, 0.38 mol) and n-BuLi (207 mL, 0.33 mol, 1.6 M solution in hexanes)) in dry tetrahydrofuran (1 L) at −78° C. over a 30 min period under N2 atmosphere. After the addition was complete, the reaction was stirred for 1 h after which HMPA (100 mL), NaI (67.0 g, 0.44 mol) and 4-methoxybenzyl chloride (39.3 g, 0.25 mol) were added sequentially. The reaction was then warmed to room temperature and stirred for additional 16 h before quenching at 0° C. with saturated NH4Cl solution (250 mL) and the mixture was extracted with EtOAc (2×1 L). The combined organic layers were washed successively with 2 N HCl (2×300 mL), saturated sodium bicarbonate solution (2×300 mL), and brine (400 mL), dried over Na2SO4 and filtered. Concentration of the filterate and purification of the resulting residue by flash column chromatography (silica gel, 100:0 to 96:4 hexane/EtOAc) afforded 54.0 g (90%) of ethyl 2,2-dimethyl-3-(4-methoxyphenyl)propanoate as a light yellow oil; 1H NMR (200 MHz, CDCl3) δ 7.03 (d, J=8.7 Hz, 2H), 6.79 (d, J=8.7 Hz, 2H), 4.10 (q, J=7.3 Hz, 2H), 3.78 (s, 3H), 2.78 (s, 2H), 1.23 (t, J=7.3 Hz, 3H), 1.15 (s, 6H).

reactant | Ethyl iso-butyrate | 0.30 mol, 35.0 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | lithium N,N-diisopropyl amide | 0.38 mol, 1.6 M, 207 mL, 38.1 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | NaI | 0.44 mol, 67.0 g | [Na+].[I-]
reactant | 4-methoxybenzyl chloride | 0.25 mol, 39.3 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | HMPA | 100 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | ethyl 2,2-dimethyl-3-(4-methoxyphenyl)propanoate | 54.0 g, 90% | CC(C(=O)OCC)(CC1=CC=C(C=C1)OC)C | C14H20O3
